US07709481B2
309 mg 2-Bromo-4-{2,2,2-trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethoxymethyl}-benzonitrile (derived from 2,2,2-Trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethanol and 2-Bromo-4-bromomethyl-benzonitrile according to the method described in example 30), 32 mg tricyclohexylphosphine, 148 mg cyclopropylboronic acid and 470 mg K3PO4 mono hydrate were dissolved in a mixture of 4 ml toluene and 0.4 ml water. The reaction mixture was purged with argon, then 130 mg palladium (II) acetate were added. The reaction mixture was stirred at 100° C. for three hours. The cooled reaction mixture was diluted by addition of 100 ml ethyl acetate and filtered through a celite pad. The filtrate was washed twice with 25 ml water, then dried over MgSO4. The solvent was removed in vacuo. The resulting residue was purified by reversed phase HPLC to obtain 185 mg 2-Cyclopropyl-4-{2,2,2-trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethoxymethyl}-benzonitrile.

reactant | 2-Bromo-4-{2,2,2-trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethoxymethyl}-benzonitrile | 309 mg | BrC1=C(C#N)C=CC(=C1)COC(C(F)(F)F)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C | C20H12BrF6N3OS
reactant | 2,2,2-Trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethanol | FC(C(O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C)(F)F | C12H8F6N2OS
reactant | 2-Bromo-4-bromomethyl-benzonitrile | BrC1=C(C#N)C=CC(=C1)CBr | C8H5Br2N
reactant | tricyclohexylphosphine | 32 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 148 mg | C1(CC1)B(O)O | C3H7BO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.4 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-4-{2,2,2-trifluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-ethoxymethyl}-benzonitrile | 185 mg | C1(CC1)C1=C(C#N)C=CC(=C1)COC(C(F)(F)F)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C | C23H17F6N3OS
